US04385925
11.5 g (0.3 mole) of sodium borohydride are added, a little at a time, to a solution of 90 g (0.269 mole) of 1-(5-methyl-1,3-dioxan-5-yl)-2-(1,2,4-triazol-1-yl)-3-(4-chlorophenyl)-propan-1-one in 250 ml of methanol, at from 0° to +5° C. The mixture is stirred for 12 hours at 20° C. and is then evaporated down. The residue is stirred for 1 hour with 200 ml of 20% strength potassium hydroxide solution and the mixture is then extracted with 500 ml of methylene chloride. The organic phase is washed with three times 50 ml of water, dried over sodium sulfate and evaporated down. The residue crystallizes at +5° C. after addition of 20 ml of ether. 45 g (49.6%) of 1-(5-methyl-1,3-dioxan-5-yl)-2-(1,2,4-triazol-1-yl)-3-(4-chlorophenyl)-propan-1-ol are isolated as white crystals of melting point 152°-154° C.

reactant | sodium borohydride | 0.3 mole, 11.5 g | [BH4-].[Na+]
reactant | 1-(5-methyl-1,3-dioxan-5-yl)-2-(1,2,4-triazol-1-yl)-3-(4-chlorophenyl)-propan-1-one | 0.269 mole, 90 g | CC1(COCOC1)C(C(CC1=CC=C(C=C1)Cl)N1N=CN=C1)=O | C16H18ClN3O3
solvent | methanol | 250 ml | CO | CH4O
product | 1-(5-methyl-1,3-dioxan-5-yl)-2-(1,2,4-triazol-1-yl)-3-(4-chlorophenyl)-propan-1-ol | 45 g, 49.6% | CC1(COCOC1)C(C(CC1=CC=C(C=C1)Cl)N1N=CN=C1)O | C16H20ClN3O3
